US08791147B2
Preparation of 9-ethyl-9H-β-carboline-3-carbaldehyde
To a solution of (9-ethyl-9H-β-carbolin-3-yl)-methanol (560 mg, 2.47 mmol, 1 eq) in acetone (20 mL) was added manganese (IV) oxide (2.942 g, 33.84 mmol, 14 eq). The solution was stirred at rt. After 3 d, as only 50% conversion is observed, more manganese (IV) oxide was added (229 mg, 2.63 mmol, 1.1 eq) and the mixture was heated to 50° C. for 2.5 d. After this time, the reaction was cooled down to rt, filtered through CELITE®, and the solid was washed with dichloromethane. The filtrates were combined and concentrated under reduced pressure. The residue was purified by column chromatography eluting with ethyl acetate to give the title compound as a yellow oil. Mass Spec m/z=225 [M+H+].

reactant | (9-ethyl-9H-β-carbolin-3-yl)-methanol | 2.47 mmol, 560 mg, 1 eq | C(C)N1C2=CC=CC=C2C=2C=C(N=CC12)CO | C14H14N2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
catalyst | manganese (IV) oxide | 33.84 mmol, 2.942 g, 14 eq | [O-2].[Mn+4].[O-2]
product | 9-ethyl-9H-β-carboline-3-carbaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(N=CC12)C=O | C14H12N2O
